US04100167
Phenylacetonitrile (5.6 g, 0.05 mole) was mixed with phosphorous acid (8.2 g, 1.0 mole), ISOPAR-M (20 g), and wetting agents (0.25 g each). The mixture was heated at ambient pressure for 4 hours at 150° C. The product was worked up with ethanol to get colorless crystals of 1-amino-1,1-diphosphono-2-phenyl ethane (40%), m.p. 238° C (decomposition).

reactant | Phenylacetonitrile | 0.05 mole, 5.6 g | C1(=CC=CC=C1)CC#N | C8H7N
reactant | phosphorous acid | 1.0 mole, 8.2 g | P(O)(O)O | H3O3P
solvent | ethanol | C(C)O | C2H6O
product | 1-amino-1,1-diphosphono-2-phenyl ethane | 40% | NC(CC1=CC=CC=C1)(P(=O)(O)O)P(=O)(O)O | C8H13NO6P2
